US06114325
(2) [[2-[(4-Methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide
Triethylamine (6.50 ml) and octadecyl isocyanate (14.40 ml) were added to a solution of the syrup containing 2-(hydroxymethyl)phenyl 4-methylpiperazinyl ketone (9.83 g) in dichloromethane (100 ml). After being stirred for 14.5 hours at room temperature, the insoluble material was filtrated out under a vacuum. The filtrate was concentrated. The residue was purified by silica gel column chromatography (silica gel 225 g, chloroform:methanol=80:1), thereby yielding 12.00 g of the aimed compound as white solid.

reactant | Triethylamine | 6.50 ml | C(C)N(CC)CC | C6H15N
reactant | octadecyl isocyanate | 14.40 ml | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | 2-(hydroxymethyl)phenyl 4-methylpiperazinyl ketone | 9.83 g | CN1CCN(CC1)C(=O)C1=C(C=CC=C1)CO | C13H18N2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | [[2-[(4-Methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide | 12.00 g | CN1CCN(CC1)C(=O)C1=C(C=CC=C1)CON(C=O)CCCCCCCCCCCCCCCCCC | C32H55N3O3
